US04352818
A solution of 3.03 g (10 mmol) of ethyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carboxylate and 0.44 g (11 mmol) of sodium hydroxide in 20 ml of ethanol and 10 ml of water is heated to boiling under reflux for 30 minutes. Subsequently, the mixture is treated with 11 ml of 1 N hydrochloric acid and concentrated to half of the volume. The precipitated crystals are filtered off under suction and dried. There is obtained 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid of decomposition point 279°.

reactant | ethyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carboxylate | 10 mmol, 3.03 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)OCC)C)=O)C1 | C15H14FN3O3
reactant | sodium hydroxide | 11 mmol, 0.44 g | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 11 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)O)C)=O)C1 | C13H10FN3O3
